US09422262B2
2-bromo-N-(3-(3-methylbutanamido)phenyl)benzamide
N-(3-Aminophenyl)-2-bromobenzamide (50 mg, 0.17 mmol), dichloromethane (1.7 mL), pyridine (17 μL, 0.21 mmol), and isovaleryl chloride (25 μL, 0.21 mmol) were added to a vial with stir bar and stirred for 20 h. The reaction was then diluted with ethyl acetate, then the combined organics were washed with 1 M aqueous HCl, then half-saturated aqueous NaHCO3, then brine. The crude solution was dried over Na2SO4, filtered, and concentrated to a colorless oil, then purified by column chromatography (EtOAc/hexanes gradient) after dry-loading on SiO2. The title compound was obtained as a white solid (53 mg, 82%). LRMS (ESI+) (M+H): 375.05.

reactant | N-(3-Aminophenyl)-2-bromobenzamide | 0.17 mmol, 50 mg | NC=1C=C(C=CC1)NC(C1=C(C=CC=C1)Br)=O | C13H11BrN2O
reactant | dichloromethane | 1.7 mL | ClCCl | CH2Cl2
reactant | pyridine | 0.21 mmol, 17 μL | N1=CC=CC=C1 | C5H5N
reactant | isovaleryl chloride | 0.21 mmol, 25 μL | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-N-(3-(3-methylbutanamido)phenyl)benzamide | BrC1=C(C(=O)NC2=CC(=CC=C2)NC(CC(C)C)=O)C=CC=C1 | C18H19BrN2O2
